US08476434B2
Preparation of 2-fluorobenzene-1,4-diamine 3,4-Difluorobenzenamine (3.0 mL) and NH4OH (15.0 mL) were heated in a sealed tube at 150° C. with vigorous stirring for several hours, forming a solid yellow precipitate. The reaction was filtered, washed with water, and then hexanes to afford 2-fluorobenzene-1,4-diamine as a yellow solid.

reactant | 2-fluorobenzene-1,4-diamine 3,4-Difluorobenzenamine | 3.0 mL | FC=1C=C(C=CC1F)N.FC1=C(C=CC(=C1)N)N
reactant | NH4OH | 15.0 mL | [NH4+].[OH-]
product | 2-fluorobenzene-1,4-diamine | FC1=C(C=CC(=C1)N)N | C6H7FN2
